US06140351
To a solution of sodium hydrosulfite (300 g, 1.7 mol) in water (4 L) was added N-(5-chloropyridin-2-yl)-2-nitro-3-methoxybenzamide (140 g, 0.45 mol). Tetrahydrofuran (2 L) and 1,4-dioxane (2 L) were added and the resulting mixture stirred at ambient temperature. After 16 hours, the solution was made basic by addition of potassium carbonate and the phases separated. The organic phase was concentrated of all volatiles in vacuo to give an off-white solid. The solid was washed with water, filtered, and dried under vacuum to afford 111 g (88% yield) of N-(5-chloropyridin-2-yl)-2-amino-3-methoxybenzamide; NMR (CDCl3) 8.8 (br, 1), 8.3 (d, 1), 8.1 (s, 1), 7.7 (dd, 1), 7.1 (dd, 1), 6.8 (d, 1), 6.6 (t, 1), 5.9 (br, 1), 3.9 (s, 3) ppm.

reactant | sodium hydrosulfite | 1.7 mol, 300 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | N-(5-chloropyridin-2-yl)-2-nitro-3-methoxybenzamide | 0.45 mol, 140 g | ClC=1C=CC(=NC1)NC(C1=C(C(=CC=C1)OC)[N+](=O)[O-])=O | C13H10ClN3O4
reactant | Tetrahydrofuran | 2 L | O1CCCC1 | C4H8O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 4 L | O | H2O
solvent | 1,4-dioxane | 2 L | O1CCOCC1 | C4H8O2
product | N-(5-chloropyridin-2-yl)-2-amino-3-methoxybenzamide | 111 g, 88% yield | ClC=1C=CC(=NC1)NC(C1=C(C(=CC=C1)OC)N)=O | C13H12ClN3O2
